US04925658
There are then slowly added 10.8 ml (117 mmoles) of acetic anhydride and the reaction mixture is stirred at ambient temperature for 18 hours. 2.7 ml (50 mmoles) of concentrated sulfuric acid are then added and in small portions 17.3 g (100 mmoles) of 4-bromophenol. The reaction mixture is stirred at ambient temperature for 24 hours, evaporated to dryness and taken up in 200 ml of water. The pH is adjusted to 7 with sodium bicarbonate and extracted with ethylether. The organic phase is decanted, dried over magnesium sulfate and evaporated. The residue is purified by chromatography on a silica column by using as the eluant a 40/60 mixture of dichloromethane and hexane. The solvents are evaporated and 8.97 g (33% yield) of 4-bromo-2-(l-methylcyclohexyl) phenol in the form of a yellowish oil are obtained.

reactant | acetic anhydride | 117 mmoles, 10.8 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 50 mmoles, 2.7 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4-bromophenol | 100 mmoles, 17.3 g | BrC1=CC=C(C=C1)O | C6H5BrO
product | 4-bromo-2-(l-methylcyclohexyl) phenol | 8.97 g, 33% yield | BrC1=CC(=C(C=C1)O)C1(CCCCC1)C | C13H17BrO
